US05498777
A 4:1 mixture of 2-Chloro-3-nitro-4-picoline-N-oxide and 2-Chloro-3-nitro-4-picoline (7.2g, 0.031 mol, based on the N-oxide) was dissolved in acetic anhydride (20 mL) and the solution was heated in a 80° C. oil bath for 70 minutes. The solvents were removed under vacuum and the dark residue was partitioned between methylene chloride (100 mL) and saturated aqueous potassium carbonate (200 mL). The aqueous layer was re-extracted with more methylene chloride (1×50 mL) and the combined methylene chloride layers were dried with magnesium sulfate, filtered and evaporated under vacuum. The crude solid was dissolved in methylene chloride (20 mL) and was loaded onto a silica gel column (E. Merck 60, 230-400 mesh, 4×36 cm). The column was eluted with methylene chloride collecting 25 mL fractions. Fractions 22-48 were combined and evaporated to give substantially pure 2-chloro-3-nitro-4-acetoxymethylpyridine (1.75 g) as a white solid.

reactant | 2-Chloro-3-nitro-4-picoline-N-oxide | ClC1=[N+](C=CC(=C1[N+](=O)[O-])C)[O-] | C6H5ClN2O3
reactant | 2-Chloro-3-nitro-4-picoline | ClC1=NC=CC(=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-3-nitro-4-acetoxymethylpyridine | 1.75 g | ClC1=NC=CC(=C1[N+](=O)[O-])COC(C)=O | C8H7ClN2O4
